US08389513B2
In a manner analogous to that described in example 30a), the alkylation of the 5-hydroxy-pyridine-2-carboxylic acid methyl ester with potassium carbonate and trifluoro-methanesulphonic acid 2,2,3,3,3-pentafluoropropyl ester yielded the 5-(2,2,3,3,3-pentafluoro-propoxy)-pyridine-2-carboxylic acid methyl ester as a light yellow oil. MS (ISP): m/z=285 [M]+. b) In a manner analogous to that described in example 30b), the hydrolysis of the 5-(2,2,3,3,3-pentafluoro-propoxy)-pyridine-2-carboxylic acid methyl ester with lithium hydroxide yielded the 5-(2,2,3,3,3-pentafluoro-propoxy)-pyridine-2-carboxylic acid as a white solid. MS (ISP): m/z=271 [M+H]+.

reactant | 5-(2,2,3,3,3-pentafluoro-propoxy)-pyridine-2-carboxylic acid methyl ester | COC(=O)C1=NC=C(C=C1)OCC(C(F)(F)F)(F)F | C10H8F5NO3
reactant | lithium hydroxide | [OH-].[Li+]
product | 5-(2,2,3,3,3-pentafluoro-propoxy)-pyridine-2-carboxylic acid | FC(COC=1C=CC(=NC1)C(=O)O)(C(F)(F)F)F | C9H6F5NO3
